US04735952
4-(4-Fluorobenzoyl)-1-(4-nitrobenzoyl)piperidine (4.75 g) was added slowly to a stirred mixture of iron powder (4.75 g), ammonium chloride (0.57 g), water (28.5 ml), ethanol (38 ml) and methyl cellosolve (76 ml) under reflux. The resulting mixture was stirred under reflux for 30 minutes and filtered. The filtrate was concentrated in vacuo. The residue was diluted with saturated sodium bicarbonate solution and extracted twice with methylene chloride. The extract was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was recrystallized from ethanol to give 1-(4-aminobenzoyl)-4-(4-fluorobenzoyl)piperidine (3.6 g) as pale yellow crystals.

reactant | 4-(4-Fluorobenzoyl)-1-(4-nitrobenzoyl)piperidine | 4.75 g | FC1=CC=C(C(=O)C2CCN(CC2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C19H17FN2O4
reactant | ammonium chloride | 0.57 g | [Cl-].[NH4+]
reactant | water | 28.5 ml | O | H2O
reactant | ethanol | 38 ml | C(C)O | C2H6O
catalyst | iron | 4.75 g | [Fe] | Fe
solvent | methyl cellosolve | 76 ml | COCCO | C3H8O2
product | 1-(4-aminobenzoyl)-4-(4-fluorobenzoyl)piperidine | 3.6 g | NC1=CC=C(C(=O)N2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C19H19FN2O2
